US06946477B2
Synthesis of 3 (R)-(2-Oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic Acid Tert-Butyl Ester
To a solution of 3(R)-(2-Amino-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester (52 mg, 0.18 mmol), Et3N (1.0 ml) in CH2Cl2 (1 ml) at 0° C. was added a solution of phosgene (20% in toluene, 0.1 ml). After stirring for 2 hr and evaporation of solvent, the residue was purified by chromatography (1%-2% MeOH in CH2Cl2) to give a colorless oil (34 mg, 60%). 1H-NMR (300 MHz, CDCl3) δ 7.80 (d, 1H), 4.20 (m, 3H), 3.50 (m, 1H), 2.75 (m, 1H), 2.65 (m, 1H), 2.10 (m, 1H), 1.90 (m, 1H), 1.70 (m, 1H), 1.50 (s, 9H) ppm; IR (film) 3067, 2975, 2935, 2858, 1745, 1692, 1612, 1487, 1423, 1383, 1347, 1266, 1246, 1158 cm−1; LRMS (calculated for C17H23N3O3—BOC)+ 217. found 217.

reactant | 3(R)-(2-Amino-phenylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.18 mmol, 52 mg | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)NC1=C(C=CC=C1)N | C16H25N3O2
reactant | Et3N | 1.0 ml | CCN(CC)CC | C6H15N
reactant | phosgene | 0.1 ml | C(=O)(Cl)Cl | CCl2O
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
product | (R)-(2-Oxo-2,3-dihydro-benzoimidazol-1-yl)-piperidine-1-carboxylic Acid Tert-Butyl Ester | 34 mg, 60% | C(C)(C)(C)OC(=O)N1[C@H](CCCC1)N1C(NC2=C1C=CC=C2)=O | C17H23N3O3
